US05677302
A mixture of 2-butyl-1,2,4-thiadiazolo[4,5-a]benzimidazole-3(2H)-one (4.0 g, 16.2 mmole) and methyl cyanoformate (2.75 g, 32.4 mmole) in 30 mL of dichloromethane was stirred at room temperature for 21 h. The precipitate was filtered and washed with dichloromethane to give 3.36 g (84%) of 3-(methoxycarbonyl)-1,2,4-thiadiazolo [4,5-a]benzimidazole as a colourless solid: mp 208°-209° C.; 1H NMR (CDCl3) δ8.61 (d, 1H), 7.82 (d, 1H), 7.51 (t, 1H), 7.31 (t, 1H), 4.17 (s, 3H) ppm; 13C NMR (CDCl3) δ164.02, 156.51, 150.67, 140.89, 129.34, 125.93, 122.41, 119.48, 115.41, 54.04 ppm; IR (KBr) ν1733 cm-1 ; HRMS calcd for C10H7N3O2S 233.0259, found 233.0262. Anal. Calcd. for C10H7N3O2S: C, 51.50; H, 3.02; N, 18.02. Found: C, 51.41; H, 2.89; N, 18.16.

reactant | 2-butyl-1,2,4-thiadiazolo[4,5-a]benzimidazole-3(2H)-one | 16.2 mmole, 4.0 g | C(CCC)N1SC2=NC3=C(N2C1=O)C=CC=C3 | C12H13N3OS
reactant | methyl cyanoformate | 32.4 mmole, 2.75 g | C(#N)C(=O)OC | C3H3NO2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 3-(methoxycarbonyl)-1,2,4-thiadiazolo [4,5-a]benzimidazole | 3.36 g, 84% | COC(=O)C1=NSC2=NC3=C(N21)C=CC=C3 | C10H7N3O2S
